US08022099B2
2-Bromo-1-{(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-[(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amino]-pyrrolidin-1-yl}-ethanone
To a stirred solution of bromo-acetyl chloride (0.146 ml, 1.75 mmol) in THF (15 ml) at RT was added over 1 hour a solution of [(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amine (Intermediate VIII-1, 0.70 g, 1.66 mmol) and triethyl amine (0.25 ml, 1.83 mmol) in THF (10 mL). The reaction was stirred over night, quenched by addition of an aqueous solution of NaHCO3, and the product extracted with EtOAC. Purification by flash chromatography (SiO2, EtOAc/Hx 1:1) yielded 0.63 g (70%) of the title compound as a white solid. ES-MS m/e: 542.6 (M+H+).

reactant | bromo-acetyl chloride | 1.75 mmol, 0.146 ml | BrCC(=O)Cl | C2H2BrClO
reactant | [(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amine | 1.66 mmol, 0.70 g | ClC=1C=C(C=CC1Cl)C1C(CNC1)N(C)CC1=CC(=C(C=C1)C(F)(F)F)F | C19H18Cl2F4N2
reactant | triethyl amine | 1.83 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-Bromo-1-{(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-[(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amino]-pyrrolidin-1-yl}-ethanone | 0.63 g, 70% | BrCC(=O)N1CC(C(C1)N(C)CC1=CC(=C(C=C1)C(F)(F)F)F)C1=CC(=C(C=C1)Cl)Cl | C21H19BrCl2F4N2O
